US08022223B2
3-(2-Chlorophenylthio)-N-(4-methylthiazol-2-yl)pyridin-2-amine hydrochloride
Prepared according to the method of Example 13, with 3-bromo-N-(4-methylthiazol-2-yl)pyridin-2-amine and 2-chlorobenzenethiol. 1H NMR (d6-DMSO) δ 8.45 (m, 1H), 7.80 (bs, 1H), 7.57 (m, 1H), 7.27 (m, 2H), 7.07 (m, 1H), 6.84 (m, 1H), 6.62 (m, 1H), 2.21 (s, 3H); Mass spectrum (esi) m/z=334.2 (100)(M+H—HCl).

reactant | 3-bromo-N-(4-methylthiazol-2-yl)pyridin-2-amine | BrC=1C(=NC=CC1)NC=1SC=C(N1)C | C9H8BrN3S
reactant | 2-chlorobenzenethiol | ClC1=C(C=CC=C1)S | C6H5ClS
product | 3-(2-Chlorophenylthio)-N-(4-methylthiazol-2-yl)pyridin-2-amine hydrochloride | Cl.ClC1=C(C=CC=C1)SC=1C(=NC=CC1)NC=1SC=C(N1)C | InChI=1S/C15H12ClN3S2.ClH/c1-10-9-20-15(18-10)19-14-13(7-4-8-17-14)21-12-6-3-2-5-11(12)16;/h2-9H,1H3,(H,17,18,19);1H
